US04734416
4.8 Grams of 5-(3-chloropropoxy)-3,4-dihydrocarbostyril and 4 g of phenylpiperazine are mixed with 40 ml of toluene and heated for 24 hours under refluxing condition. Then the reaction mixture is concentrated under reduced pressure to dryness. The residue thus obtained is dissolved in 80 ml of chloroform and the chloroform layer is washed twice with 5.0% of sodium hydrogencarbonate aqueous solution, further washed twice with water, dried with anhydrous sodium sulfate and chloroform is removed by distillation. To the residue thus obtained is added hexane and the insoluble material is collected by filtration and then dissolved in 30 ml of 5% HCl-methanol solution and concentrated under reduced pressure to dryness. The residue obtained is recrystallized from methanol-ether to obtain 3.2 g of 5-[3-(4-phenylpiperazinyl)propoxy]-3,4-dihydrocarbostyril monohydrochloride in the form of colorless crystals with a melting point of 262° C. (decomposition).

reactant | 5-(3-chloropropoxy)-3,4-dihydrocarbostyril | ClCCCOC1=C2CCC(NC2=CC=C1)=O | C12H14ClNO2
reactant | phenylpiperazine | 4 g | C=1C=CC(=CC1)N2CCNCC2 | C10H14N2
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
reactant | hexane | CCCCCC | C6H14
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-[3-(4-phenylpiperazinyl)propoxy]-3,4-dihydrocarbostyril monohydrochloride | 3.2 g | Cl.C1(=CC=CC=C1)N1CCN(CC1)CCCOC1=C2CCC(NC2=CC=C1)=O | InChI=1S/C22H27N3O2.ClH/c26-22-11-10-19-20(23-22)8-4-9-21(19)27-17-5-12-24-13-15-25(16-14-24)18-6-2-1-3-7-18;/h1-4,6-9H,5,10-17H2,(H,23,26);1H
